US05116862
A solution of 3-mercaptopropionic acid (15 ml) in dry dimethylformamide (250 ml) was stirred at 0°, under nitrogen. Sodium hydride (10.2 g; 80% dispersion in oil) was added carefully and the mixture was stirred at 40° for 1 hour. The mixture was cooled to 0° C. and propargyl bromide (60 g; 80% in toluene) was added dropwise. The mixture was stirred at 20° for 3 hours and then at 80° for 1 hour. The mixture was cooled and poured into water. The aqueous mixture was extracted with diethyl ether, and the extracts washed with water and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo. The resulting oil (30 g) (mainly prop-2-ynyl 3-(prop-2-ynylthio(propionate) was added to a solution of sodium hydroxide (8.0 g) in water (100 ml) and methanol (100 ml) and the mixture was stirred at 20° for 24 hours. The mixture was extracted with diethyl ether and the aqueous solution was acidified with hydrochloric acid. The acidic mixture was extracted with diethyl ether and the ethereal extracts were dried over anhydrous magnesium sulphate. The solvent was removed in vacuo. 3-(Prop-2-ynylthio) propionic acid was obtained as a red oil (12.0 g) and was used without further purification.

reactant | 3-mercaptopropionic acid | 15 ml | SCCC(=O)O | C3H6O2S
reactant | Sodium hydride | 10.2 g | [H-].[Na+]
reactant | propargyl bromide | 60 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-(Prop-2-ynylthio) propionic acid | C(C#C)SCCC(=O)O | C6H8O2S
